US04045566
4-p-Methylanilinocarbonylmethylamino-1-(4-phenyl-4-oxobutyl) piperidine
Using a procedure analogous to Example 1 4-amino-1-(4-phenyl-4-oxobutyl) piperidine may be reacted with N-(p-tolyl) chloro-acetamide to give the title compound.

reactant | 4-amino-1-(4-phenyl-4-oxobutyl) piperidine | NC1CCN(CC1)CCCC(=O)C1=CC=CC=C1 | C15H22N2O
reactant | N-(p-tolyl) chloro-acetamide | C1(=CC=C(C=C1)NC(CCl)=O)C | C9H10ClNO
product | 4-p-Methylanilinocarbonylmethylamino-1-(4-phenyl-4-oxobutyl) piperidine | CC1=CC=C(NC(=O)CNC2CCN(CC2)CCCC(=O)C2=CC=CC=C2)C=C1 | C24H31N3O2
